US08859580B2
Cyclopropanecarboxylic acid [(2R,6S)-9-hydroxy-6,11,11-trimethyl-3-(2,2,2-trifluoro-acetyl)-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocin-8-yl]-amide
Cyclopropylcarbonyl chloride (0.13 mL) is added to a solution of 1-[(2R,6S)-8-amino-9-hydroxy-6,11,11-trimethyl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocin-3-yl]-2,2,2-trifluoro-ethanone (0.50 g) and triethylamine (0.25 mL) in dichloromethane (3 mL). After stirring the solution at room temperature overnight, concentrated aqueous ammonia solution (1 mL) and methanol (2 mL) are added and the resulting mixture is stirred for additional 2 h. Then, the solution is concentrated and water is added to the residue. The resulting mixture is extracted with ethyl acetate and the combined organic extracts are washed with brine and dried (MgSO4). The solvent is removed under reduced pressure to give the crude title compound that is used without further purification.

reactant | Cyclopropylcarbonyl chloride | 0.13 mL | C1(CC1)C(=O)Cl | C4H5ClO
reactant | 1-[(2R,6S)-8-amino-9-hydroxy-6,11,11-trimethyl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocin-3-yl]-2,2,2-trifluoro-ethanone | 0.50 g | NC1=CC2=C(C[C@H]3N(CC[C@@]2(C3(C)C)C)C(C(F)(F)F)=O)C=C1O | C17H21F3N2O2
reactant | triethylamine | 0.25 mL | C(C)N(CC)CC | C6H15N
reactant | ammonia | 1 mL | N | H3N
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | methanol | 2 mL | CO | CH4O
product | Cyclopropanecarboxylic acid [(2R,6S)-9-hydroxy-6,11,11-trimethyl-3-(2,2,2-trifluoro-acetyl)-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocin-8-yl]-amide | OC=1C(=CC2=C(C[C@H]3N(CC[C@@]2(C3(C)C)C)C(C(F)(F)F)=O)C1)NC(=O)C1CC1 | C21H25F3N2O3
